US04496572
Sodium hydride (0.11 g of 50% dispersion in mineral oil) was added portionwise to a stirred solution of 2-[1-imidazolylmethyl]-3-methylindole-5-carboxylic acid ethyl ester (0.57 g) in dry N,N-dimethylformamide (20 ml) and the mixture was stirred at room temperature for 30 minutes. A solution of dimethyl sulphate (0.26 g) in dry N,N-dimethyl-formamide (2.5 ml) was added dropwise and the mixture was stirred at room temperature for 18 hours and then evaporated. The residue was chromatographed on silica gel. Elution with chloroform first gave mineral oil and impurity followed by pure product. Evaporation of the product-containing fractions gave a solid which was crystallised froml ethyl acetate/petrol (b.p. 60°-80°) to give 1,3-dimethyl-2-[1-imidazolylmethyl]indole-5-carboxylic acid ethyl ester (0.40 g), m.p. 109°-110°.

reactant | Sodium hydride | 0.11 g | [H-].[Na+]
reactant | 2-[1-imidazolylmethyl]-3-methylindole-5-carboxylic acid ethyl ester | 0.57 g | C(C)OC(=O)C=1C=C2C(=C(NC2=CC1)CC=1NC=CN1)C | C16H17N3O2
reactant | dimethyl sulphate | 0.26 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl-formamide | 2.5 ml | CN(C=O)C | C3H7NO
product | 1,3-dimethyl-2-[1-imidazolylmethyl]indole-5-carboxylic acid ethyl ester | 0.40 g | C(C)OC(=O)C=1C=C2C(=C(N(C2=CC1)C)CC=1NC=CN1)C | C17H19N3O2
